US07790895B2
To a solution of 3-(3-formyl-pyridin-4-yl)-benzonitrile (15 mg, 0.075 mmol) in THF (1 mL) at −78° C. was added 0.5 M 2,4,6-trimethylphenylmagnesium bromide in THF (0.3 mL). The reaction mixture was quenched with ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography eluted with 5% methanol in dichloromethane to yield 3-{3-[hydroxy-(2,4,6-trimethyl-phenyl)-methyl]-pyridin-4-yl}-benzonitrile as white crystals.

reactant | 3-(3-formyl-pyridin-4-yl)-benzonitrile | 0.075 mmol, 15 mg | C(=O)C=1C=NC=CC1C=1C=C(C#N)C=CC1 | C13H8N2O
reactant | 2,4,6-trimethylphenylmagnesium bromide | 0.5 M | CC1=C(C(=CC(=C1)C)C)[Mg]Br
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
product | 3-{3-[hydroxy-(2,4,6-trimethyl-phenyl)-methyl]-pyridin-4-yl}-benzonitrile | OC(C=1C=NC=CC1C=1C=C(C#N)C=CC1)C1=C(C=C(C=C1C)C)C | C22H20N2O
